US20010007873A1
EXAMPLE 16 6-[2-CYCLOPROPYL-4-(2-DIMETHYLAMINO-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE
Prepared as in Example 14G using of 4-(6-amino-pyridin-yl)-3-cyclopropyl-phenol and 2-dimethylaminoethyl chloride in a presence of Cs2CO3in a boiling acetone (81% yield).

reactant | 4-(6-amino-pyridin-yl)-3-cyclopropyl-phenol | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CC1 | C14H14N2O
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
product | 6-[2-CYCLOPROPYL-4-(2-DIMETHYLAMINO-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE | 81% yield | C1(CC1)C1=C(C=CC(=C1)OCCN(C)C)C1=CC=CC(=N1)N | C18H23N3O
